**********
* Copyright Intusoft 1988-1997
* All Rights Reserved
**********
**********
*SRC=JFET;NJFET;Generic Models;JFET;N Channel
*SYM=NJFET
.SUBCKT NJFET 1 2 3 {VTO=??? BETA=??? IDSS=??? GDS=???}
*Parameters:
* VTO is the threshold voltage or VGS(off) Gate Source cutoff voltage.
* IDSS is the zero gate voltage drain current
* GDS is the output conductance, if not available use Lambda = .02
* Capacitances CGS and CGD can be obtained from Capacitance curves if
* available, or from the values of Ciss and Crss. PB which is the same
* as VJ for a diode, can also be obtained from the capacitance curves.
* Add RD if the linear region curves are to steep.
* Add RS if the saturation region curves for various VGS values
* are too widely separated. 
J 1 2 3 NJFET
.MODEL NJFET NJF VTO={VTO} BETA={IDSS/VTO^2} LAMBDA={GDS/IDSS}
.ENDS
**********
*SRC=XTAL;XTAL;Generic Models;Crystal;
*SYM=XTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XTAL 1 2 {CP=??? RS=??? FREQ=??? Q=???}
*Parameters: CP Parallel capacitance in Farads, RS Series Resistance in Ohms
* Q Q of the crystal, FREQ resonant frequency in Hz
CP 1 2 {CP}
RS 1 3 {RS}
L 3 4 {Q*RS/(6.283185*FREQ)}
C 4 2 {1/(Q*6.283185*FREQ*RS)}
.ENDS
**********
*SRC=XTALT;XTALT;Generic Models;Crystal;Varies with .OPT TEMP
*SYM=XTALT
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XTALT 1 2 {TEMP=27 TC=1 CP=??? RS=??? FREQ=??? Q=???} 
*Parameters: CP Parallel capacitance in Farads, RS Series Resistance in Ohms
* Q Q of the crystal, FREQ resonant frequency in Hz
* TEMP IN Degrees C, TC IN PPM PER DEG C
CP 1 2 {CP}
RS 1 3 {RS}
L 3 4 {Q*RS/(6.283185*FREQ*(1+(TEMP-27)*TC*1U))}
C 4 2 {1/(Q*6.283185*FREQ*(1+(TEMP-27)*TC*1U)*RS)}
RS3 1 30 {RS/2}
L3 30 40 {Q*RS/(6.283185*FREQ*(1+(TEMP-27)*TC*1U)*3)}
C3 40 2 {1/(Q*6.283185*3*FREQ*(1+(TEMP-27)*TC*1U)*RS)}
.ENDS
**********
*SRC=XT10K;XT10K;Crystals;10 kHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT10K 1 2      
CP 1 2 1.4000P  
RS 1 3 40.000K  
L 3 4 12.732K   
C 4 2 19.894F   
.ENDS   
**********
*SRC=XT32768K;XT32768K;Crystals;32.768 kHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT32768K 1 2      
CP 1 2 1.5000P  
RS 1 3 30.000K  
L 3 4 10.200K   
C 4 2 2.3129F   
.ENDS   
**********
*SRC=XT100K;XT100K;Crystals;100 kHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT100K 1 2      
CP 1 2 1.4000P  
RS 1 3 10.0000K 
L 3 4 1.5915K   
C 4 2 1.5915F   
.ENDS   
**********
*SRC=XT3_5MEG;XT3_5MEG;Crystals;3.5 MEGHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT3_5MEG 1 2
CP 1 2 7.0000P
RS 1 3 180.00 
L 3 4 240.10M
C 4 2 8.2338F
.ENDS
**********
*SRC=XT10MEG;XT10MEG;Crystals;10 MEGHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT10MEG 1 2
CP 1 2 7.0000P
RS 1 3 30.000 
L 3 4 14.324M
C 4 2 17.684F
.ENDS
**********
*SRC=XT8MEG;XT8MEG;Crystals;8 MEGHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT8MEG 1 2      
CP 1 2 6.0000P  
RS 1 3 30.000   
L 3 4 596.83M   
C 4 2 6.6315E-16
.ENDS   
**********
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT16MEG 1 2      
CP 1 2 6.0000P  
RS 1 3 20.000   
L 3 4 198.94M   
C 4 2 4.9736E-16
.ENDS   
**********
*SRC=XT32MEG;XT32MEG;Crystals;32 MEGHz;
*SYM=CRYSTAL
*HELP issyntax.hlp "Modeling Crystals"
.SUBCKT XT32MEG 1 2      
CP 1 2 6.0000P  
RS 1 3 35.000   
L 3 4 174.08M   
C 4 2 1.4210E-16
.ENDS   
**********
*SRC=RPOT;RPOT;Generic Models;Potentiometer;
*SYM=RPOT
.SUBCKT RPOT 8    3     4      5    7 {RPOT=???}
*            TOP  WIPER BOTTOM CNT+ CNT-
*Parameters: Rpot Total Potentiometer resistance, in Ohms
*Connect a voltage source between the + and - pins
*to control wiper position.
*Connect - pin to ground.
*Control Voltage can be set between 0 and 1.
*Wiper is at one end (bottom) when control voltage=0.0
*Wiper is at the other end (top) when control voltage=1.0
*Wiper is in the middle when control voltage=0.5
*Wiper is elsewhere when control voltage=other values between 0 & 1.
R3 2 3 1G
R1 3 6 1M
R2 6 4 1G
V1 2 1 
V2 6 9 
H5 1 3 POLY(2) V1 V3 0 {RPOT} 0 0 {-1E6*RPOT}
H6 9 4 POLY(2) V2 V3 0 0 0 0 {1E6*RPOT}
V3 10 7 
R5 5 10 1MEG
R4 8 2 1M
.ENDS
**********
*SRC=POT50K;POT50K;Potentiometers;50 kOhm;
*SYM=POT
.SUBCKT POT50K 8    3     4      5    7  
*              TOP  WIPER BOTTOM CNT+ CNT-   
R3 2 3 1G       
R1 3 6 1M       
R2 6 4 1G       
V1 2 1  
V2 6 9  
H5 1 3 POLY(2) V1 V3 0 50.000K 0 0 -50.000G     
H6 9 4 POLY(2) V2 V3 0 0 0 0 50.000G    
V3 10 7 
R5 5 10 1MEG    
R4 8 2 1M       
.ENDS   
**********
*SRC=POT100K;POT100K;Potentiometers;100 kOhm;
*SYM=POT
.SUBCKT POT100K 8    3     4      5    7  
*               TOP  WIPER BOTTOM CNT+ CNT-   
R3 2 3 1G       
R1 3 6 1M       
R2 6 4 1G       
V1 2 1  
V2 6 9  
H5 1 3 POLY(2) V1 V3 0 100.000K 0 0 -100.000G   
H6 9 4 POLY(2) V2 V3 0 0 0 0 100.000G   
V3 10 7 
R5 5 10 1MEG    
R4 8 2 1M       
.ENDS   
**********
*SRC=POT1MEG;POT1MEG;Potentiometers;1 MEGOhm;
*SYM=POT
.SUBCKT POT1MEG 8    3     4      5    7  
*               TOP  WIPER BOTTOM CNT+ CNT-   
R3 2 3 1G       
R1 3 6 1M       
R2 6 4 1G       
V1 2 1  
V2 6 9  
H5 1 3 POLY(2) V1 V3 0 1.0000MEG 0 0 -1.0000E12 
H6 9 4 POLY(2) V2 V3 0 0 0 0 1.0000E12  
V3 10 7 
R5 5 10 1MEG    
R4 8 2 1M       
.ENDS   
**********
*SRC=POT10K;POT10K;Potentiometers;10 kOhm;
*SYM=POT
.SUBCKT POT10K 8    3     4      5    7  
*              TOP  WIPER BOTTOM CNT+ CNT-   
R3 2 3 1G       
R1 3 6 1M       
R2 6 4 1G       
V1 2 1  
V2 6 9  
H5 1 3 POLY(2) V1 V3 0 10.0000K 0 0 -10.0000G   
H6 9 4 POLY(2) V2 V3 0 0 0 0 10.0000G   
V3 10 7 
R5 5 10 1MEG    
R4 8 2 1M       
.ENDS   
**********
*SRC=BUCK;BUCK;Generic Models;Buck Regulator;
*SYM=BUCK
.SUBCKT BUCK 6     16  25 {VFLBK=??? LFIL=??? FREQ=???}
*            CNTRL OUT IN
*Parameters: FREQ in Hz, LFIL in Henries, VFLBK in Volts
.MODEL DIODE D(IS=1E-12 N=.42)
X1 6 4 7 1 SUM3A 

V2 7 0 1
V3 8 0 {VFLBK }
L1 9 16 {LFIL }
X2 12 4 13 0 LIMITV 
X3 6 7 13 SUM2A  

X4 4 12 14 SUM2B  

E2 15 0  POLY(2) 8 0 4 0 0 0 0 0 1
R2 8 0 1K
G1 0 17 3 0 1
R3 17 0 .01MEG
G2 17 0  POLY(2) 18 0 17 0 0 0 0 0 1
E3 12 0 17 0 10
R4 12 0 1MEG
R5 18 0 1MEG
D1 19 9 DIODE
X5 2 15 11 SUM2C  

X6 25 16 20 SUM2B  

*X7 20 6 3 MULA  
EX7 3 0 POLY(2) 20 0 6 0 0 0 0 0 {1/(FREQ*LFIL) }

*AVG LAG FROM VPI PAPER
RG3 5 55 1K
*Aug 90 Newsletter correction from GG3 5 55 1K
CG3 55 0 {.5M/FREQ }

G3 0 9 55 0 1
X8 21 22 5 SUM2D  

X9 3 6 22 MULB  

X10 4 3 21 MULB  

G4 25 0  POLY(2) 6 0 11 19 0 0 0 0 1K
R6 11 19 .001
G5 0 25 22 0 -.5
X11 8 16 18 SUM2A  

E1 2 0  POLY(2) 25 0 6 0 0 0 0 0 1
.ENDS
.SUBCKT LIMITV 1  2   10   11
* PINS ARE    IN OUT +LIM -LIM
*PARAMETERS ARE NONE 
RIN 1 0 1E12
E1 3 0 0 1 1
RC1 2 4 .1MEG
C1 2 4 1F IC=0
R1 3 4 .1MEG
E2 102 0 0 4 1E6
DX 102 2 DN
RN 11 0 1MEG
DN 4 102 DN
.MODEL DN D(IS=1E-12 N=.14319)
EP 2 6 10 0 -.0597 1
DP 6 4 DN
.ENDS
.SUBCKT SUM3A 1 2 3 4
* 3 PORT SUMMER
RIN1 1 0 1E12
RIN2 2 0 1E12
RIN3 3 0 1E12
ROUT 4 0 1E12
E1 4 0 POLY(3) 1 0 2 0 3 0 0 -1.0000  -1.0000  1.0000 
.ENDS
.SUBCKT SUM2A 1 2 3
RIN1 1 0 1E12
RIN2 2 0 1E12
ROUT 3 0 1E12
E1 3 0 POLY(2) 1 0 2 0 0 -1.0000  1.0000 
.ENDS
.SUBCKT SUM2B 1 2 3
RIN1 1 0 1E12
RIN2 2 0 1E12
ROUT 3 0 1E12
E1 3 0 POLY(2) 1 0 2 0 0 1.0000  -1.0000 
.ENDS
.SUBCKT SUM2C 1 2 3
RIN1 1 0 1E12
RIN2 2 0 1E12
ROUT 3 0 1E12
E1 3 0 POLY(2) 1 0 2 0 0 1.0000  1.0000 
.ENDS
.SUBCKT SUM2D 1 2 3
RIN1 1 0 1E12
RIN2 2 0 1E12
ROUT 3 0 1E12
E1 3 0 POLY(2) 1 0 2 0 0 500.00M 500.00M
.ENDS
.SUBCKT MULB 1 2 3
RIN1 1 0 1E12
RIN2 2 0 1E12
ROUT 3 0 1E12
E1 3 0 POLY(2) 1 0 2 0 0 0 0 0 1.0000 
.ENDS
**********
*SRC=PLATRES;PLATRES;Sensors;Thermal;10 kOhm Platinum
*SYM=PLATRES
.SUBCKT PLATRES 1 2    4
*Connections   In+ In- Temperature Input as a voltage
*Rosemount Inc. Model 118MF Platinum Resistor Temperature Sensor
E1 3 0 4 0  9.9999852M,  -39.578240U,  162.20918N,  -651.71860P,  
+ 2.4374024P,  -7.7566684F,  1.8935112E-17,  -3.1854041E-20,  
+ 3.2138513E-23,  -1.4483587E-26,  
G1 1 2 POLY(2) 1 2 3 0 0 0 0 0 1
RE1 3 0 1E12
RIN 4 0 1E12
RG1 1 2 1E12
.ENDS
**********
*SRC=CIRCULATOR;CIRCLTR;Generic Models;Circulator;
*SYM=CIRCULATR
.SUBCKT CIRCLTR 1  2  3
E1 5 0 1 4 1MEG
E2 7 0 2 6 1MEG
E3 9 0 3 8 1MEG
R1 4 9 50
R2 1 9 50
R3 4 5 50
R4 5 6 50
R5 2 5 50
R6 6 7 50
R7 7 8 50
R8 3 7 50
R9 8 9 50
.ENDS 
************

