**********
* Copyright Intusoft 1991-1997
* All Rights Reserved
**********
**********
*SRC=BF993;BF993;Dual Gate FETs;20V 50mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF993 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF993G1
MD2 1 2 5 4 BF993G2 W=65U
.MODEL BF993G1 NMOS (LEVEL=1 VTO=-1.0 KP=23M GAMMA=7.4U 
+ PHI=.75 LAMBDA=13.75M RS=2.5 IS=31.2F PB=.8 MJ=.46
+ CBD=9.66P CBS=11.5P CGSO=600P CGDO=500P CGBO=61.4N
.MODEL BF993G2 NMOS (LEVEL=1 VTO=-.9 KP=25M GAMMA=30.4U
+ PHI=.75 LAMBDA=23.75M RD=74.4 IS=31.2F PB=.8 MJ=.46
+ CBD=9.66P CBS=11.5P CGSO=600P CGDO=500P CGBO=61.4N
* Siemens
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=BF980A;BF980A;Dual Gate FETs;18V 30mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF980A 1      2     3     4
*Connections   Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF980AA
MD2 1 2 5 4 BF980AB W=50U
.MODEL BF980AA NMOS (LEVEL=1 VTO=-1.0 KP=17M GAMMA=4.34U
+ PHI=.75 LAMBDA=4.16M RS=3.2 IS=20.8F PB=.8 MJ=.46
+ CBD=2.89P CBS=3.47P CGSO=300P CGDO=250P CGBO=25.4N)
.MODEL BF980AB NMOS (LEVEL=1 VTO=-.9 KP=20M GAMMA=17.47U
+ PHI=.75 LAMBDA=14.16M RD=30 IS=20.8F PB=.8 MJ=.46
+ CBD=2.89P CBS=3.47P CGSO=300P CGDO=250P CGBO=25.4N)
* Philips
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=BF981;BF981;Dual Gate FETs;20V 20mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF981 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF981A
MD2 1 2 5 4 BF981B W=50U
.MODEL BF981A NMOS (LEVEL=1 VTO=-1.1 KP=15M GAMMA=3.3U
+ PHI=.75 LAMBDA=3.75M RS=2.2 IS=12.5F PB=.8 MJ=.46
+ CBD=3.43P CBS=4.11P CGSO=240P CGDO=200P CGBO=20.5N)
.MODEL BF981B NMOS (LEVEL=1 VTO=-.9 KP=18M GAMMA=19.08U
+ PHI=.75 LAMBDA=13.75M RD=41.3 IS=12.5F PB=.8 MJ=.46
+ CBD=3.43P CBS=4.11P CGSO=240P CGDO=200P CGBO=14.5N)
* Philips
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=BF990A;BF990A;Dual Gate FETs;18V 30mA UHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF990A 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF990AA
MD2 1 2 5 4 BF990AB W=50U
.MODEL BF990AA NMOS (LEVEL=1 VTO=-1 KP=17M GAMMA=3.34U
+ PHI=.75 LAMBDA=4.16M RS=2.2 IS=20.8F PB=.8 MJ=.46
+ CBD=3.89P CBS=4.66P CGSO=300P CGDO=250P CGBO=25.4N)
.MODEL BF990AB NMOS (LEVEL=1 VTO=-.7 KP=21M GAMMA=17.47U
+ PHI=.75 LAMBDA=14.16M RD=34.1 IS=20.8F PB=.8 MJ=.46
+ CBD=3.89P CBS=4.66P CGSO=300P CGDO=250P CGBO=13.4N)
* Philips
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=BF992;BF992;Dual Gate FETs;20V 40mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF992 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF992A
MD2 1 2 5 4 BF992B W=75U
.MODEL BF992A NMOS (LEVEL=1 VTO=-1 KP=25M GAMMA=2.56U
+ PHI=.75 LAMBDA=3.75M RS=2.1 IS=12.5F PB=.8 MJ=.46
+ CBD=6.52P CBS=7.82P CGSO=360P CGDO=300P CGBO=39.3N)
.MODEL BF992B NMOS (LEVEL=1 VTO=-.7 KP=28M GAMMA=26.05U
+ PHI=.75 LAMBDA=13.75M RD=51.3 IS=12.5F PB=.8 MJ=.46
+ CBD=6.52P CBS=7.82P CGSO=360P CGDO=300P CGBO=16.3N)
* Philips
* N-Channel Depletion DG-MOSFET  05-28-1991
.ENDS
**********
*SRC=BF996S;BF996S;Dual Gate FETs;20V 30mA UHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF996S 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF996A
MD2 1 2 5 4 BF996B W=42U
.MODEL BF996A NMOS (LEVEL=1 VTO=-1.2 KP=14M GAMMA=5.1U
+ PHI=.75 LAMBDA=11.75M RS=3.8 IS=18.7F PB=.8 MJ=.46
+ CBD=2.56P CBS=3.07P CGSO=300P CGDO=250P CGBO=22.4N)
.MODEL BF996B NMOS (LEVEL=1 VTO=-1.0 KP=17M GAMMA=22.8U
+ PHI=.75 LAMBDA=13.75M RD=24.3 IS=18.7F PB=.8 MJ=.46
+ CBD=2.56P CBS=3.07P CGSO=300P CGDO=250P CGBO=10.4N)
* Siemens
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=BF998;BF998;Dual Gate FETs;20V 30mA UHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BF998 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BF998A
MD2 1 2 5 4 BF998B W=50U
.MODEL BF998A NMOS (LEVEL=1 VTO=-.9 KP=22M GAMMA=21.0U
+ PHI=.75 LAMBDA=9.25M RS=2.1 IS=31.2F PB=.8 MJ=.46
+ CBD=3.08P CBS=3.70P CGSO=300P CGDO=250P CGBO=20.4N)
.MODEL BF998B NMOS (LEVEL=1 VTO=-.75 KP=26M GAMMA=62.5U
+ PHI=.75 LAMBDA=13.25M RD=39.8 IS=31.2F PB=.8 MJ=.46
+ CBD=3.08P CBS=3.70P CGSO=300P CGDO=250P CGBO=11.4N)
* Siemens 
* N-Channel Depletion DG-MOSFET  05-28-1991
.ENDS
**********
*SRC=BFR84;BFR84;Dual Gate FETs;20V 50mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT BFR84 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 BFR84A
MD2 1 2 5 4 BFR84B W=50U
.MODEL BFR84A NMOS (LEVEL=1 VTO=-2.5 KP=11M GAMMA=8.9U
+ PHI=.75 LAMBDA=3.75M RS=7.4 IS=31.2F PB=.8 MJ=.46
+ CBD=11.4P CBS=13.7P CGSO=360P CGDO=300P CGBO=54.3N)
.MODEL BFR84B NMOS (LEVEL=1 VTO=-2.0 KP=14M GAMMA=26.6U
+ PHI=.75 LAMBDA=13.75M RD=72.4 IS=31.2F PB=.8 MJ=.46
+ CBD=11.4P CBS=13.7P CGSO=360P CGDO=300P CGBO=39.3N)
* Philips
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=MFE130;MFE130;Dual Gate FETs;35V 30mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT MFE130  1      2     3     4
*Connections    Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MFE130A
MD2 1 2 5 4 MFE130B W=50U
.MODEL MFE130A NMOS (LEVEL=1 VTO=-2.3 KP=10M GAMMA=2.18U
+ PHI=.75 LAMBDA=2.14M RS=14.2 IS=10.7F PB=.8 MJ=.46
+ CBD=9.76P CBS=11.7P CGSO=276P CGDO=230P CGBO=44.4N)
.MODEL MFE130B NMOS (LEVEL=1 VTO=-1.8 KP=15M GAMMA=14.20U
+ PHI=.75 LAMBDA=12.14M RD=16.9 IS=10.7F PB=.8 MJ=.46
+ CBD=9.76P CBS=11.7P CGSO=276P CGDO=230P CGBO=44.4N)
* Motorola
* N-Channel Depletion DG-MOSFET 06-01-1991
.ENDS
**********
*SRC=3N201;MN201;Dual Gate FETs;25V 50mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT MN201 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MN201-1
MD2 1 2 5 4 MN201-2 W=35U
.MODEL MN201-1 NMOS (LEVEL=1 VTO=-1.45 KP=11.8M GAMMA=3.26U
+ PHI=.75 LAMBDA=30M RD=1M RS=20.8 IS=25F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
.MODEL MN201-2 NMOS (LEVEL=1 VTO=-1.00 KP=12.5M GAMMA=27.26U
+ PHI=.75 LAMBDA=37M RD=15.3 RS=1M IS=30F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
* Motorola
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=3N203;MN203;Dual Gate FETs;25V 50mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT MN203 1      2     3     4
*Connections  Drain  Gate2 Gate1 Source
*Dual Gate Mosfet - 3N203
MD1 5 3 4 4 MN203-1
MD2 1 2 5 4 MN203-2 W=37U
.MODEL MN203-1 NMOS (LEVEL=1 VTO=-1.45 KP=10.5M GAMMA=3.26U
+ PHI=.75 LAMBDA=30M RS=24.8 IS=25F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
.MODEL MN203-2 NMOS (LEVEL=1 VTO=-1.05 KP=11.5M GAMMA=27.26U
+ PHI=.75 LAMBDA=37M RD=15.3 IS=30F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
* Motorola
* N-Channel Depletion DG-MOSFET 
.ENDS
**********
*SRC=MPF201;MPF201;Dual Gate FETs;25V 50mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT MPF201  1      2     3     4
*Connections    Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MPF201A
MD2 1 2 5 4 MPF201B W=35U
.MODEL MPF201A NMOS (LEVEL=1 VTO=-1.45 KP=11.8M GAMMA=3.26U
+ PHI=.75 LAMBDA=30M RS=20.8 IS=25F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
.MODEL MPF201B NMOS (LEVEL=1 VTO=-1.00 KP=12.5M GAMMA=27.26U
+ PHI=.75 LAMBDA=37M RD=15.3 IS=30F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
* Motorola
* N-Channel Depletion DG-MOSFET 06-01-1991
.ENDS
**********
*SRC=MPF203;MPF203;Dual Gate FETs;25V 50mA VHF;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT MPF203  1      2     3     4
*Connections    Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MPF203A
MD2 1 2 5 4 MPF203B W=37U
.MODEL MPF203A NMOS (LEVEL=1 VTO=-1.42 KP=10.5M GAMMA=3.26U
+ PHI=.75 LAMBDA=30M RS=24.8 IS=25F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
.MODEL MPF203B NMOS (LEVEL=1 VTO=-1.03 KP=11.5M GAMMA=27.26U
+ PHI=.75 LAMBDA=37M RD=15.3 IS=30F PB=.8 MJ=.46
+ CBD=6.64P CBS=7.97P CGSO=168P CGDO=140P CGBO=32.6N)
* Motorola
* N-Channel Depletion DG-MOSFET 06-01-1991
.ENDS
**********
*SRC=MPF521;MPF521;Dual Gate FETs;25V 50mA Enhancement;
*SYM=DGMOS
*HELP issyntax.hlp "Dual-Gate MOSFETS"
.SUBCKT MPF521  1      2     3     4
*Connections    Drain  Gate2 Gate1 Source
*Dual Gate Mosfet
MD1 5 3 4 4 MPF521A
MD2 1 2 5 4 MPF521B W=70U
.MODEL MPF521A NMOS (LEVEL=1 VTO=1.2 KP=12M GAMMA=5.81U
+ PHI=.75 LAMBDA=3M RS=17.5 IS=15F PB=.8 MJ=.46
+ CBD=4.28P CBS=5.13P CGSO=180P CGDO=150P CGBO=32.6N)
.MODEL MPF521B NMOS (LEVEL=1 VTO=1.4 KP=10M GAMMA=4.84U
+ PHI=.75 LAMBDA=13M RD=47.5 IS=15F PB=.8 MJ=.46
+ CBD=4.28P CBS=5.13P CGSO=180P CGDO=150P CGBO=32.6N)
* Motorola
* N-Channel Enhancement DG-MOSFET 06-01-1991
.ENDS
**********
